US20010029239A1
A mixture of methyl 2-(3-bromomethyl-2-tert-butoxycarbonyl-4-chlorophenoxy)-3-methoxypropenoate (0.3 g), sodium thiomethoxide (72 mg) and potassium carbonate (0.143 g) was heated in acetonitrile for 4 hours at 70° C. Water and ethyl acetate were added and the organic phase dried (magnesium sulphate), evaporated and purified by chromatography on silica gel eluting with c-hexane/ethyl acetate to give methyl 2-(2-tert-butoxycarbonyl-4-chloro-3-methylthiomethylphenoxy)-3-methoxypropenoate (0.18 g).

reactant | methyl 2-(3-bromomethyl-2-tert-butoxycarbonyl-4-chlorophenoxy)-3-methoxypropenoate | 0.3 g | BrCC=1C(=C(OC(C(=O)OC)=COC)C=CC1Cl)C(=O)OC(C)(C)C | C17H20BrClO6
reactant | sodium thiomethoxide | 72 mg | C[S-].[Na+]
reactant | potassium carbonate | 0.143 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 2-(2-tert-butoxycarbonyl-4-chloro-3-methylthiomethylphenoxy)-3-methoxypropenoate | 0.18 g | C(C)(C)(C)OC(=O)C1=C(OC(C(=O)OC)=COC)C=CC(=C1CSC)Cl | C18H23ClO6S
